US07101903B2
A mixture of (5-bromo-1H-indol-2-yl)methanol (9 g, 39.8 mmol), 3-methylbenzeneboronic acid (6.14 g, 43.78 mmol), potassium carbonate (13.75 g, 99.5 mmol), palladium(II) acetate (0.045 g) and tetrabutylammonium bromide (12.84 g, 39.8 mmol) in 10% dioxane in water (degassed, 0.38 L) was stirred at 70° C. The reaction was monitored by TLC. Additional 3-methylbenzeneboronic acid (5.6 g, 39.8 mmol) was added. After no 5-bromo-1-(4-tert-butylbenzyl)-1H-indole was detected by TLC, the reaction was cooled to room temperature and the solvent was decanted. The residual thick oil was stirred with hexane. The hexane was decanted and the residue was partitioned between water and ethyl acetate. The ethyl acetate layer was separated, washed with water filtered and concentrated. The residue was purified by flash column chromatography using hexane/ethyl acetate (55:45) as an eluant to give [5-(3-Methylphenyl)-1H-indol-2-yl]methanol as a brown solid (6.0 g). Reaction of [5-(3-Methylphenyl)-1H-indol-2-yl]methanol with acetyl chloride according to the procedure described in step 4 of Example 1 afforded the title compound as an oil (3.94 g); Mass spectrum (ESI, [M−H]−) m/z 278. 1H NMR (400 MHz, DMSO-d6) δ 7.76 (s, 1H), 7.46 (s, 1H), 7.42–7.36 (m, 3H), 7.30 (s, 1H), 7.10 (d, 1H, J=7.48 Hz), 6.50 (s, 1H), 2.37 (s, 3H), and 2.07 ppm (s, 3H).

reactant | (5-bromo-1H-indol-2-yl)methanol | 39.8 mmol, 9 g | BrC=1C=C2C=C(NC2=CC1)CO | C9H8BrNO
reactant | 3-methylbenzeneboronic acid | 43.78 mmol, 6.14 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | potassium carbonate | 99.5 mmol, 13.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylbenzeneboronic acid | 39.8 mmol, 5.6 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | 5-bromo-1-(4-tert-butylbenzyl)-1H-indole | BrC=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)C(C)(C)C | C19H20BrN
catalyst | tetrabutylammonium bromide | 39.8 mmol, 12.84 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.38 L | O | H2O
catalyst | palladium(II) acetate | 0.045 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [5-(3-Methylphenyl)-1H-indol-2-yl]methanol | 6.0 g | CC=1C=C(C=CC1)C=1C=C2C=C(NC2=CC1)CO | C16H15NO
